US06313160B1
Step A: 2-(3,4-Dihydro-2H-4-chromenylidene)acetonitrile
Diethyl cyanomethylphosphonate (1.15 eq.) is slowly added to a suspension of sodium hydride (1.15 eq.) in anhydrous tetrahydrofuran at 0° C. The reaction medium is stirred for 10 minutes at 0° C. and then cooled to −78° C. 4-Chromanone dissolved in tetrahydrofuran is added. The temperature is then returned slowly to 20-25° C. over 2 hours 30. After removal of the solvent, the compounds are extracted with ethyl acetate. The organic phase is washed with a large amount of a saturated solution of sodium chloride, concentrated and purified (Z/E mixture) on a silica column (AcOEt/PE 3/7).

reactant | Diethyl cyanomethylphosphonate | 1.15 eq. | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | sodium hydride | 1.15 eq. | [H-].[Na+]
reactant | 4-Chromanone | O1CCC(C2=CC=CC=C12)=O | C9H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(3,4-Dihydro-2H-4-chromenylidene)acetonitrile | O1CCC(C2=CC=CC=C12)=CC#N | C11H9NO
